US09255065B1
Synthesis of N-(4-nitrosophenyl)acetamide
After oxone (potassium peroxymonosulfate, from Sigma-Aldrich®; 12.28 g, 20.0 mmol) had dissolved completely in water (100 mL), potassium carbonate (4.14 g, 30 mmol) was added slowly to neutralize the solution to a weak acidity. The solution was added quickly into a solution of 4′-aminoacetanilide (from Sigma-Aldrich®; 1.50 g, 10.0 mmol) in water (150 mL). The mixture immediately turned green, and greenish-gray solids started to fall out of solution. After the mixture had been stirred for another 10 minutes, the precipitates were collected on a filter funnel, air dried, and recrystallized from hot ethanol. Two batches of products were collected to give a total yield of 1.06 g (65%) greenish crystals, mp 179-180° C. (lit. 179-180° C.).

reactant | oxone | 20.0 mmol, 12.28 g | OOS(=O)[O-].[K+]
reactant | potassium carbonate | 30 mmol, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4′-aminoacetanilide | 10.0 mmol, 1.50 g | NC1=CC=C(NC(C)=O)C=C1 | C8H10N2O
solvent | water | 100 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | N-(4-nitrosophenyl)acetamide | yield of 1.06 g, 65% | N(=O)C1=CC=C(C=C1)NC(C)=O | C8H8N2O2
